US04075221
In the manner given in Example 1, a solution of 8-methylthio-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide N,N,N',N',-tetramethyldiaminomethane and acetyl chloride (in 0.1 molar excess compared to the N,N,N',N',-tetramethyldiaminomethane) are reacted together to give 8-methylthio-1-[2-(dimethylamino)ethyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-methylthio-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=CC=CC=C3)C1 | C18H16N4S
reactant | N,N,N',N',-tetramethyldiaminomethane | CN(C)CN(C)C | C5H14N2
solvent | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 8-methylthio-1-[2-(dimethylamino)ethyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN(C)C)C3=CC=CC=C3)C1 | C21H23N5S
